US05126483
To 0.65 g (2.6 mmol) of (+)-2-(2,3-dimethoxyphenyl)-heptylamine was added dropwise a 5.2 ml of 0.502M toluene solution of 2,6-diisopropylphenyl isocyanate at room temperature and the whole was stirred overnight. The reaction mixture was concentrated and the resulting residue was crystallized from methanol. The crystals were collected by filtration and washed with n-hexane to give 0.512 g (43.5% yield) of (+)-1-(2-(2,3-dimethoxyphenyl)heptyl)-3-(2,6-diisopropylpheyl)urea.

reactant | (+)-2-(2,3-dimethoxyphenyl)-heptylamine | 2.6 mmol, 0.65 g | COC1=C(C=CC=C1OC)C(CN)CCCCC | C15H25NO2
reactant | 2,6-diisopropylphenyl isocyanate | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | toluene | 0.502M, 5.2 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-1-(2-(2,3-dimethoxyphenyl)heptyl)-3-(2,6-diisopropylpheyl)urea | 0.512 g, 43.5% yield | COC1=C(C=CC=C1OC)C(CNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CCCCC | C28H42N2O3
